US07985764B2
A 317 mg portion of 1-(4-fluorobenzyl)-2,3-dimethyl-N-pyrrolidin-3-yl-1H-indole-5-carboxamide hydrochloride was suspended in 8 ml of dichloromethane, 0.11 ml of triethylamine and 0.13 ml of formaldehyde (a 37% aqueous solution) were added, and then 836 mg of sodium triacetoxy borohydride was added under ice-cooling, followed by stirring at room temperature for 1.5 hours. A 1 M sodium hydroxide aqueous solution was added to the reaction liquid, followed by extraction with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=100:1:0.1 to 50:1:0.1 to 30:1:0.1 to 20:1:0.1) to obtain 279 mg of 1-(4-fluorobenzyl)-2,3-dimethyl-N-(1-methylpyrrolidin-3-yl)-1H-indole-5-carboxamide as a colorless solid. This product was suspended in 2 ml of ethanol, and 0.27 ml of 4 M hydrogen chloride-ethyl acetate was added, followed by stirring at room temperature for 2 hours. After evaporation of the solvent under a reduced pressure, the residue was dissolved in 2 ml of acetone, followed by stirring at room temperature for 2 hours. The resulting solid was collected by filtration and then washed with acetone to obtain 261 mg of 1-(4-fluorobenzyl)-2,3-dimethyl-N-(1-methylpyrrolidin-3-yl)-1H-indole-5-carboxamide hydrochloride as a pale pink solid.

reactant | 1-(4-fluorobenzyl)-2,3-dimethyl-N-pyrrolidin-3-yl-1H-indole-5-carboxamide hydrochloride | Cl.FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)NC2CNCC2)C)C)C=C1
reactant | formaldehyde | 0.13 ml | C=O | CH2O
reactant | sodium triacetoxy borohydride | 836 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-fluorobenzyl)-2,3-dimethyl-N-(1-methylpyrrolidin-3-yl)-1H-indole-5-carboxamide | 279 mg | FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)NC2CN(CC2)C)C)C)C=C1 | C23H26FN3O
